### PR TITLE
Factor out standard pullbacks

### PR DESCRIPTION
**Pull request by fredrik-bakke**
- Factors `foundation(-core).pullbacks` into a treatment for standard pullbacks in `foundation(-core).standard-pullbacks`, and cones satisfying `is-pullback` in `foundation(-core).pullbacks`. This makes the file about pullbacks much more readable, finally.
- Deletes `foundation.pullback-squares` because it was just a stub, and led to misuse in some places. After a refactoring of cones, we may want an additional file about pullback cones.

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
I will review this PR myself a little later. In the meanwhile, since I believe it is close to done I will mark it as ready for review.

File: src/foundation/cones-over-cospan-diagrams.lagda.md [hunk 1]
```diff
@@ -7,20 +7,27 @@ module foundation.cones-over-cospan-diagrams where
...
 open import foundation-core.commuting-squares-of-maps
+open import foundation-core.contractible-types
 open import foundation-core.equivalences
 open import foundation-core.function-types
-open import foundation-core.homotopies
-open import foundation-core.identity-types
+open import foundation-core.functoriality-dependent-pair-types
 open import foundation-core.torsorial-type-families
 open import foundation-core.transport-along-identifications
+open import foundation-core.whiskering-identifications-concatenation
```
Comment (fredrik-bakke) [inline src/foundation/cones-over-cospan-diagrams.lagda.md:30]: Note that this file already imported `foundation.homotopy-induction`, so I don't expect the added imports actually complicate the dependency graph very much.

File: src/foundation-core/pullbacks.lagda.md [hunk 2]
```diff
@@ -45,102 +37,24 @@ Given a [cospan of types](foundation.cospans.md)
...
-`a : A` and `b : B` such that `f a` and `g b` agree:
-
-```text
-  A ×_X B := Σ (a : A) (b : B), (f a ＝ g b).
-```
-
-Thus the standard [cone](foundation.cones-over-cospan-diagrams.md) consists of
-the canonical projections.
+Therefore, as our main definition of a pullback cone we consider
+{{#concept "the small predicate of being a pullback" Agda=is-pullback}}: given
```
Comment (EgbertRijke) [inline src/foundation-core/pullbacks.lagda.md:48]:
```suggestion
Therefore, as our main definition of a pullback cone we consider the
{{#concept "small predicate of being a pullback" Agda=is-pullback}}: given
```

File: src/foundation-core/pullbacks.lagda.md [hunk 3]
```diff
@@ -45,102 +37,24 @@ Given a [cospan of types](foundation.cospans.md)
...
 ```
 
-we can form the
-{{#concept "standard pullback" Disambiguation="types" Agda=standard-pullback}}
-`A ×_X B` satisfying
-[the universal property of the pullback](foundation-core.universal-property-pullbacks.md)
-of the cospan, completing the diagram
+we want to pose the question of whether a certain
+[cone](foundation.cones-over-cospan-diagrams.md) over it is a
+{{#concept "pullback cone" Disambiguation="types" Agda=is-pullback}}. Although
```
Comment (EgbertRijke) [inline src/foundation-core/pullbacks.lagda.md:42]: This would flow more naturally if it would go along the lines of: Given a cone ... over a cospan of types, we want to pose the question of whether it is a pullback.

Comment (EgbertRijke) [reply src/foundation-core/pullbacks.lagda.md:42]: Or even better: Consider a cone ... over a cospan of types .... We want to pose the question ...

File: src/foundation-core/standard-pullbacks.lagda.md [hunk 4]
```diff
@@ -0,0 +1,503 @@
...
+
+  htpy-cone-up-pullback-standard-pullback :
+    (c : cone f g C) →
+    htpy-cone f g (cone-map f g (cone-standard-pullback f g) (gap f g c)) c
+  pr1 (htpy-cone-up-pullback-standard-pullback c) = refl-htpy
+  pr1 (pr2 (htpy-cone-up-pullback-standard-pullback c)) = refl-htpy
+  pr2 (pr2 (htpy-cone-up-pullback-standard-pullback c)) = right-unit-htpy
+```
+
+### The standard pullback of a Σ-type
```
Comment (EgbertRijke) [inline src/foundation-core/standard-pullbacks.lagda.md:218]: This looks more like a definition to me, because it is not a property of the general standard pullbacks that are introduced above, but it is its own thing.

Since it is not about the definition `standard-pullback`, I don't think the file `standard-pullbacks` is the right place for this definition. Perhaps it would be better to have this in its own file `standard-pullbacks-dependent-pair-types` or in `pullbacks`.

File: src/foundation/functoriality-function-types.lagda.md [hunk 5]
```diff
@@ -114,6 +117,19 @@ pr1 (emb-postcomp f A) = postcomp A (map-emb f)
 pr2 (emb-postcomp f A) = is-emb-postcomp-is-emb (map-emb f) (is-emb-map-emb f) A
 ```
 
+### Postcomp cones
```
Comment (fredrik-bakke) [inline src/foundation/functoriality-function-types.lagda.md:120]:
```suggestion
### Postcomposition cones
```

File: src/foundation/cones-over-cospan-diagrams.lagda.md [hunk 6]
```diff
@@ -266,6 +276,260 @@ pr1 (pr2 (id-cone A)) = id
 pr2 (pr2 (id-cone A)) = refl-htpy
 ```
 
+## Properties
+
+### Relating `htpy-parallel-cone` to the identity type of cones
+
+In the following part we will relate the type `htpy-parallel-cone` to the
+identity type of cones. Here we will rely on
+[function extensionality](foundation.function-extensionality.md).
```
Comment (EgbertRijke) [inline src/foundation/cones-over-cospan-diagrams.lagda.md:287]: There is a lot more in the code below that is not explained beyond the usual characterization of identity types, and it is not immediate to me what is going on in it. Could you explain it?

File: src/foundation/cones-over-cospan-diagrams.lagda.md [hunk 7]
```diff
@@ -225,6 +232,11 @@ pr2 (pr2 (swap-cone f g c)) = inv-htpy (coherence-square-cone f g c)
 
 ### Parallel cones over cospan diagrams
 
+Two cones are considered
+{{#concept "parallel" Disambiguation="cones over cospan diagrams"}} here if they
+have the same domain and their cospans are homotopic keeping the cospanning type
+fixed.
```
Comment (EgbertRijke) [inline src/foundation/cones-over-cospan-diagrams.lagda.md:238]: This seems to be some left-over old code, but I think that with our current conventions we would simply call this `htpy-cone`.

File: src/foundation/cones-over-cospan-diagrams.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:287]: Well, yes, basically it characterizes homotopies of parallel cones as binary dependent identifications over the homotopies from `f` to `f'` and `g` to `g'`. I had a look at this code for like an hour, and concluded that it should be refactored once we have the definition of a cone over a cospan diagrams as you described yesterday. I'll add my short explanation though.

File: src/foundation/cones-over-cospan-diagrams.lagda.md (hunk 7 above)
Comment (fredrik-bakke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:238]: I believe the definition of homotopies of parallel cones should be replaced with equivalences of cones over cospan diagrams over equivalences of cospan diagrams.

File: src/foundation/cones-over-cospan-diagrams.lagda.md [hunk 8]
```diff
@@ -266,6 +278,260 @@ pr1 (pr2 (id-cone A)) = id
...
+      is-torsorial (htpy-parallel-cone Hf Hg c)
+    is-torsorial-htpy-parallel-cone Hf {g'} =
+      ind-htpy
+        ( f)
+        ( λ f'' Hf' → (g' : B → X) (Hg : g ~ g') (c : cone f g C) →
+          is-contr (Σ (cone f'' g' C) (htpy-parallel-cone Hf' Hg c)))
+        ( λ g' Hg → is-torsorial-htpy-parallel-cone-refl-htpy Hg)
+        ( Hf)
+        ( g')
+
```
Comment (EgbertRijke) [inline src/foundation/cones-over-cospan-diagrams.lagda.md:379]: I would expect the following definitions after `is-torsorial-...`:

`is-equiv-htpy-eq-parallel-cone`
`extensionality-cone`
`eq-htpy-parallel-cone`

File: src/foundation/cones-over-cospan-diagrams.lagda.md [hunk 9]
```diff
@@ -266,6 +278,260 @@ pr1 (pr2 (id-cone A)) = id
...
+  tr-right-tr-left-cone-eq-htpy :
```
Comment (EgbertRijke) [inline src/foundation/cones-over-cospan-diagrams.lagda.md:380]: All of the code below in this code block is not explained.

File: src/foundation/functoriality-cartesian-product-types.lagda.md [hunk 10]
```diff
@@ -253,6 +254,24 @@ module _
...
+  (f : A → X) (g : B → X) (f' : A' → X') (g' : B' → X')
+  where
+
+  product-cone :
+    cone f g C → cone f' g' C' →
+    cone (map-product f f') (map-product g g') (C × C')
+  pr1 (product-cone (p , q , H) (p' , q' , H')) = map-product p p'
+  pr1 (pr2 (product-cone (p , q , H) (p' , q' , H'))) = map-product q q'
+  pr2 (pr2 (product-cone (p , q , H) (p' , q' , H'))) = htpy-map-product H H'
+```
```
Comment (EgbertRijke) [inline src/foundation/functoriality-cartesian-product-types.lagda.md:273]: I would for sure have put this in a separate file.

File: src/foundation/functoriality-coproduct-types.lagda.md [hunk 11]
```diff
@@ -539,6 +540,27 @@ module _
...
+  coproduct-cone :
+    cone f g C → cone f' g' C' →
+    cone (map-coproduct f f') (map-coproduct g g') (C + C')
+  pr1 (coproduct-cone (p , q , H) (p' , q' , H')) = map-coproduct p p'
+  pr1 (pr2 (coproduct-cone (p , q , H) (p' , q' , H'))) = map-coproduct q q'
+  pr2 (pr2 (coproduct-cone (p , q , H) (p' , q' , H'))) =
+    ( inv-htpy (preserves-comp-map-coproduct p f p' f')) ∙h
+    ( htpy-map-coproduct H H') ∙h
+    ( preserves-comp-map-coproduct q g q' g')
+```
```
Comment (EgbertRijke) [inline src/foundation/functoriality-coproduct-types.lagda.md:562]: I would also put this in a separate file

File: src/foundation/functoriality-function-types.lagda.md [hunk 12]
```diff
@@ -114,6 +117,19 @@ pr1 (emb-postcomp f A) = postcomp A (map-emb f)
...
+```agda
+postcomp-cone :
+  {l1 l2 l3 l4 l5 : Level}
+  {A : UU l1} {B : UU l2} {C : UU l3} {X : UU l4} (T : UU l5)
+  (f : A → X) (g : B → X) (c : cone f g C) →
+  cone (postcomp T f) (postcomp T g) (T → C)
+pr1 (postcomp-cone T f g c) h = vertical-map-cone f g c ∘ h
+pr1 (pr2 (postcomp-cone T f g c)) h = horizontal-map-cone f g c ∘ h
+pr2 (pr2 (postcomp-cone T f g c)) h = eq-htpy (coherence-square-cone f g c ·r h)
+```
```
Comment (EgbertRijke) [inline src/foundation/functoriality-function-types.lagda.md:131]: I would also put this in a separate file

File: src/foundation/standard-pullbacks.lagda.md [hunk 13]
```diff
@@ -0,0 +1,311 @@
...
+                ( is-equiv-concat (Hf a) (g' b))
+                ( is-equiv-concat' (f a) (inv (Hg b)))))
+
+  equiv-standard-pullback-htpy :
+    standard-pullback f' g' ≃ standard-pullback f g
+  pr1 equiv-standard-pullback-htpy = map-equiv-standard-pullback-htpy
+  pr2 equiv-standard-pullback-htpy = is-equiv-map-equiv-standard-pullback-htpy
+```
+
+### Dependent products of standard pullbacks are standard pullbacks
```
Comment (EgbertRijke) [inline src/foundation/standard-pullbacks.lagda.md:163]: It would be nice to put this whole section in a new file `dependent-products-pullbacks` or `dependent-products-standard-pullbacks` because the point of this bit here is to concude that `(i : I) -> standard-pullback ....` is a pullback. Then you get to use the gap map and you get to conclude `is-pullback` etc.

File: src/foundation/standard-pullbacks.lagda.md [hunk 14]
```diff
@@ -0,0 +1,311 @@
...
+    is-equiv-map-standard-pullback-Π :
+      is-equiv (map-standard-pullback-Π)
+    is-equiv-map-standard-pullback-Π =
+      is-equiv-is-invertible
+        ( inv-map-standard-pullback-Π)
+        ( is-section-inv-map-standard-pullback-Π)
+        ( is-retraction-inv-map-standard-pullback-Π)
+```
+
+### Coproducts of standard pullbacks are pullbacks
```
Comment (EgbertRijke) [inline src/foundation/standard-pullbacks.lagda.md:221]: I would put this in its own file `coproducts-(standard-)pullbacks`

File: src/foundation/cones-over-cospan-diagrams.lagda.md (hunk 8 above)
Comment (fredrik-bakke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:379]: Alright, I think I've got how to refactor this code now. It still seems a little backward to me to refactor this now when it should be refactored again in the future though.

File: src/foundation/universal-property-pullbacks.lagda.md [hunk 15]
```diff
@@ -30,21 +32,21 @@ The {{#concept "universal property of pullbacks" Disambiguation="types"}}
...
 ```text
-         B
-         |
-         |
-         V
-A -----> X
+          B
+          |
+          |
+          V
```
Comment (EgbertRijke) [inline src/foundation/universal-property-pullbacks.lagda.md]: Can you typeset these arrowheads with `\or` while you're at it?

Comment (fredrik-bakke) [reply src/foundation/universal-property-pullbacks.lagda.md]: just did :)

File: src/foundation/universal-property-pullbacks.lagda.md [hunk 16]
```diff
@@ -79,13 +81,13 @@ module _
   where
 
   abstract
-    uniquely-unique-pullback :
+    uniquely-unique-up-pullback :
```
Comment (EgbertRijke) [inline src/foundation/universal-property-pullbacks.lagda.md]: `uniquely-unique-universal-property-pullback`

Comment (fredrik-bakke) [reply src/foundation/universal-property-pullbacks.lagda.md]: it's already fixed. please refresh

**Review by EgbertRijke — APPROVED** [review]
Thank you for cleaning up pullbacks! I very much appreciate your work. Well done!

File: src/foundation/universal-property-pullbacks.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/foundation/universal-property-pullbacks.lagda.md]: Because I want "pullback" to mean a cone equipped with a proof of the small proposition

File: src/foundation/cones-over-cospan-diagrams.lagda.md (hunk 8 above)
Comment (fredrik-bakke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:379]: Never mind, I will do it. I guess both concepts "equivalent parallel cones" and "homotopic parallel cones" can be useful, and the latter is already used two other places.

**Comment by fredrik-bakke** [comment]
Thank you for the review, it is most helpful!

**Comment by fredrik-bakke** [comment]
Your suggestions are very sensible, and I think they will heighten the quality of this refactoring substantially.

File: src/foundation/universal-property-pullbacks.lagda.md (hunk 15 above)
Comment (EgbertRijke) [reply src/foundation/universal-property-pullbacks.lagda.md]: I've been curious about your list of intended refactorings:)

Comment (fredrik-bakke) [reply src/foundation/universal-property-pullbacks.lagda.md]: It doesn't end there 😇

Comment (EgbertRijke) [reply src/foundation/universal-property-pullbacks.lagda.md]: I know... You've been keeping it secret from me:P

Comment (fredrik-bakke) [reply src/foundation/universal-property-pullbacks.lagda.md]: lol, I can show you what it contains. It's mostly different regexes to detect bad practices

File: src/foundation/cones-over-cospan-diagrams.lagda.md (hunk 8 above)
Comment (EgbertRijke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:379]: Let’s keep this code around, but not add any further things to it. I realized later that this code was moved over from existing code.

Comment (fredrik-bakke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:379]: Ah, yes, I don't think I will be making any new additions in this PR

**Comment by fredrik-bakke** [comment]
We could perhaps consider doing a file about type arithmetic for standard pullbacks, recording such things as

- Commutativity of standard pullbacks
- Associativity of standard pullbacks given a ternary span
- Unit laws of standard pullbacks (when either leg is the identity)
- Zero laws of standard pullbacks when any of the types in the cospan are empty

**Comment by fredrik-bakke** [comment]
How's this?

File: src/foundation/products-pullbacks.lagda.md [hunk 17]
```diff
@@ -0,0 +1,289 @@
...
+module _
+  {l1 l2 l3 l4 l1' l2' l3' l4' : Level}
+  {A : UU l1} {B : UU l2} {X : UU l3} {C : UU l4}
+  {A' : UU l1'} {B' : UU l2'} {X' : UU l3'} {C' : UU l4'}
+  (f : A → X) (g : B → X) (f' : A' → X') (g' : B' → X')
+  (c : cone f g C) (c' : cone f' g' C')
+  where
+
+  abstract
+    is-pullback-left-factor-is-pullback-product' :
```
Comment (VojtechStep) [inline src/foundation/products-pullbacks.lagda.md:217]: Since `is-pullback` is a proposition, should we maybe only require the standard pullbacks to be merely inhabited?

File: src/foundation/standard-pullbacks.lagda.md [hunk 18]
```diff
@@ -0,0 +1,441 @@
...
+
+Given a [cospan of types](foundation.cospans.md)
+
+```text
+  f : A → X ← B : g,
+```
+
+we can form the
+{{#concept "standard pullback" Disambiguation="types" Agda=standard-pullback}}
+`A ×_X B` satisfying
```
Comment (VojtechStep) [inline src/foundation/standard-pullbacks.lagda.md:46]: Since the `_X` isn't rendered as a subscript, and Unicode doesn't have codepoints for subscript capital letters, maybe we could write this with KaTeX instead of Markdown, i.e. replace backticks with dollar signs? It will look different than other constructions, but at least it will reflect how it looks in practice.

File: src/foundation/standard-pullbacks.lagda.md [hunk 19]
```diff
@@ -0,0 +1,441 @@
...
+[the universal property of the pullback](foundation-core.universal-property-pullbacks.md)
+of the cospan, completing the diagram
+
+```text
+  A ×_X B ------> B
```
Comment (VojtechStep) [inline src/foundation/standard-pullbacks.lagda.md:51]: But then I guess there's no way to make this one look nice...

File: src/foundation/standard-pullbacks.lagda.md [hunk 20]
```diff
@@ -0,0 +1,441 @@
...
+     | ⌟          |
+     |            | g
+     |            |
+     v            v
+     A ---------> X.
+           f
+```
+
+The standard pullback consists of [pairs](foundation.dependent-pair-types.md)
+`a : A` and `b : B` such that `f a ＝ g b` agree
```
Comment (VojtechStep) [inline src/foundation/standard-pullbacks.lagda.md:61]: "such that (f a) equals (g b) agree" doesn't sound right

File: src/foundation/standard-pullbacks.lagda.md [hunk 21]
```diff
@@ -0,0 +1,441 @@
...
+
+  horizontal-map-standard-pullback : standard-pullback f g → B
+  horizontal-map-standard-pullback t = pr1 (pr2 t)
+
+  coherence-square-standard-pullback :
+    coherence-square-maps
+      horizontal-map-standard-pullback
+      vertical-map-standard-pullback
+      g
+      f
```
Comment (VojtechStep) [inline src/foundation/standard-pullbacks.lagda.md:97]:
```suggestion
    coherence-square-maps
      ( horizontal-map-standard-pullback)
      ( vertical-map-standard-pullback)
      ( g)
      ( f)
```

File: src/foundation/standard-pullbacks.lagda.md [hunk 22]
```diff
@@ -0,0 +1,441 @@
...
+### Characterization of the identity type of the standard pullback
+
+```agda
+module _
+  {l1 l2 l3 : Level} {A : UU l1} {B : UU l2} {X : UU l3} (f : A → X) (g : B → X)
+  where
+
+  Eq-standard-pullback : (t t' : standard-pullback f g) → UU (l1 ⊔ l2 ⊔ l3)
+  Eq-standard-pullback (a , b , p) (a' , b' , p') =
+    Σ (a ＝ a') (λ α → Σ (b ＝ b') (λ β → ap f α ∙ p' ＝ p ∙ ap g β))
```
Comment (VojtechStep) [inline src/foundation/standard-pullbacks.lagda.md:143]: Would it be feasible to flip the commuting square of identifications? I think then we could avoid the `inv right-unit`s below, and it's also more similar to `nat-htpy`

**Review by VojtechStep — COMMENTED** [review]
Looks great, thanks for taking this on! I have some mostly stylistic nitpicks

File: src/foundation/cones-over-cospan-diagrams.lagda.md [hunk 23]
```diff
@@ -223,7 +230,13 @@ pr1 (pr2 (swap-cone f g c)) = vertical-map-cone f g c
 pr2 (pr2 (swap-cone f g c)) = inv-htpy (coherence-square-cone f g c)
 ```
 
-### Parallel cones over cospan diagrams
+### Parallel cones over parallel cospan diagrams
+
+Two cones with the same domain over parallel cospans are considered
+{{#concept "parallel" Disambiguation="cones over cospan diagrams"}} if they are
+part of a fully coherent diagram. I.e., there is a fully coherent cube where all
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:237]: > Is this an established term? I've never seen it, but I think I'll want to use it in the future

Oh, um, I guess not, but it should be fairly self-explanatory.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:237]: > Also starting a sentence with `I.e.` doesn't look great - could it be replaced with an mdash or something?

I went with a colon :)

File: src/foundation/cones-over-cospan-diagrams.lagda.md [hunk 24]
```diff
@@ -266,6 +279,274 @@ pr1 (pr2 (id-cone A)) = id
 pr2 (pr2 (id-cone A)) = refl-htpy
 ```
 
+## Properties
+
+### Relating `htpy-parallel-cone` to the identity type of cones
+
+In the following part we will relate the type `htpy-parallel-cone` to the
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/cones-over-cospan-diagrams.lagda.md:286]: I agree. Thanks for pointing it out!

File: src/foundation/coproducts-pullbacks.lagda.md [hunk 25]
```diff
@@ -0,0 +1,253 @@
...
+  {l1 l2 l3 l1' l2' l3' : Level}
+  {A : UU l1} {B : UU l2} {X : UU l3}
+  {A' : UU l1'} {B' : UU l2'} {X' : UU l3'}
+  (f : A → X) (g : B → X) (f' : A' → X') (g' : B' → X')
+  where
+
+  triangle-map-standard-pullback-coproduct :
+    {l4 l4' : Level} {C : UU l4} {C' : UU l4'}
+    (c : cone f g C) (c' : cone f' g' C') →
+    ( gap
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/coproducts-pullbacks.lagda.md:175]: Thanks for calling out my lazyness 🙃

File: src/foundation/dependent-sums-pullbacks.lagda.md [hunk 26]
```diff
@@ -0,0 +1,389 @@
...
+      (λ aa' →
+        ( tot (λ bb' → eq-pair-Σ')) ∘
+        ( map-standard-pullback-tot-cone-cone-fam-left-factor aa'))) ∘
+    ( map-standard-pullback-tot-cone-cone-fam-right-factor)
+
+  is-equiv-map-standard-pullback-tot-cone-cone-family :
+    is-equiv map-standard-pullback-tot-cone-cone-family
+  is-equiv-map-standard-pullback-tot-cone-cone-family =
+    is-equiv-comp
+      ( tot (λ aa' →
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/dependent-sums-pullbacks.lagda.md:250]: Thanks for pointing out! This is probably just something I missed with my previous formatting pull requests

File: src/foundation/dependent-sums-pullbacks.lagda.md [hunk 27]
```diff
@@ -0,0 +1,389 @@
...
+        standard-pullback
+          ( tr PX (coherence-square-standard-pullback t) ∘
+            f' (vertical-map-standard-pullback t))
+          ( g' (horizontal-map-standard-pullback t))) →
+    standard-pullback (map-Σ PX f f') (map-Σ PX g g')
+  map-standard-pullback-tot-cone-cone-family =
+    ( tot
+      (λ aa' →
+        ( tot (λ bb' → eq-pair-Σ')) ∘
+        ( map-standard-pullback-tot-cone-cone-fam-left-factor aa'))) ∘
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/dependent-sums-pullbacks.lagda.md:243]: I've always been more of a fan of adding than removing parentheses in instances like these :)

File: src/foundation/postcomposition-pullbacks.lagda.md [hunk 28]
```diff
@@ -0,0 +1,184 @@
...
+
+### Cones satisfying the universal property of pullbacks are closed under postcomposition exponentiation
+
+```agda
+module _
+  {l1 l2 l3 l4 l5 : Level} {A : UU l1} {B : UU l2} {X : UU l3} {C : UU l4}
+  (T : UU l5) (f : A → X) (g : B → X) (c : cone f g C)
+  where
+
+  universal-property-pullback-postcomp :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/postcomposition-pullbacks.lagda.md:164]: In my kingdom it would be `up-pullback-postcomp-up-pullback` 🥲

File: src/foundation/postcomposition-pullbacks.lagda.md [hunk 29]
```diff
@@ -0,0 +1,184 @@
...
+  abstract
+    is-equiv-map-standard-pullback-postcomp :
+      is-equiv map-standard-pullback-postcomp
+    is-equiv-map-standard-pullback-postcomp =
+      is-equiv-tot-is-fiberwise-equiv
+        ( λ p → is-equiv-tot-is-fiberwise-equiv (λ q → funext (f ∘ p) (g ∘ q)))
+
+  compute-standard-pullback-postcomp :
+    standard-pullback (postcomp T f) (postcomp T g) ≃ cone f g T
+  compute-standard-pullback-postcomp =
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/postcomposition-pullbacks.lagda.md:99]: Because we are [inlining constructors now (#1011)](https://github.com/UniMath/agda-unimath/pull/1011) 😁

File: src/foundation/products-pullbacks.lagda.md (hunk 17 above)
Comment (fredrik-bakke) [reply src/foundation/products-pullbacks.lagda.md:217]: I think this is a nice suggestion, because this is the "proper" formulation of the theorem. I wanted to add it for the underlying theorem also, but this introduced cyclic dependencies :/

File: src/foundation/products-pullbacks.lagda.md [hunk 30]
```diff
@@ -0,0 +1,289 @@
...
+```agda
+module _
+  {l1 l2 l3 l4 l1' l2' l3' l4' : Level}
+  {A : UU l1} {B : UU l2} {X : UU l3} {C : UU l4}
+  {A' : UU l1'} {B' : UU l2'} {X' : UU l3'} {C' : UU l4'}
+  (f : A → X) (g : B → X) (c : cone f g C)
+  (f' : A' → X') (g' : B' → X') (c' : cone f' g' C')
+  where
+
+  universal-property-pullback-product :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/foundation/products-pullbacks.lagda.md:188]: `up-pullback-product-up-pullback`? :)

File: src/foundation/standard-pullbacks.lagda.md (hunk 19 above)
Comment (fredrik-bakke) [reply src/foundation/standard-pullbacks.lagda.md:51]: If only we could draw some sort of diagram that allowed latex symbols in them...

File: src/foundation/standard-pullbacks.lagda.md (hunk 18 above)
Comment (fredrik-bakke) [reply src/foundation/standard-pullbacks.lagda.md:46]: I think this will have to do for now. Once we have latex diagrams and have successfully convinced Egbert that latex equations are superior, then we can talk about changing this.

File: src/foundation/standard-pullbacks.lagda.md (hunk 22 above)
Comment (fredrik-bakke) [reply src/foundation/standard-pullbacks.lagda.md:143]: It's feasible, but it only exchanges the `inv right-unit`s for `right-unit`s. If you still think it is preferable, then I guess we can implement the change. I'm not yet convinced though.

**Comment by fredrik-bakke** [comment]
I've addressed your comments as best I can. Let me know if there is anything else to do or if this PR is ready for merging.

**Comment by fredrik-bakke** [comment]
I'm gonna go ahead and merge this PR as I need it to continue my work. If there are any future comments, I can fix them in a subsequent PR.
